US06806267B1
7-((Dimethylcarbamoyl)oxy)-6-(2-naphthyl)pyrrolo[1,2-d]pyrido-[3,2-b][1,4]oxazepine (PBOX-43)
To a suspension of potassium hydride (0.211 g, 1.84 mmol, 35% in oil) in anhydrous TBF (5.0 mL) was added the the (±)-6-(2-naphthyl)pyrrolo[1,2-d]pyrido[3,2-b][1,4]oxazepin-7(6H)-one (600 mg, 1.84 mmol) dissolved in anhydrous THF (5 mL). The reaction mixture was stirred at rt for 2 h, and then dimethylcarbamoyl chloride (0.228 g, 2.12 mmol) was slowly added. After stirring for 12 h at 30° C., the solvent was removed in vacuo and the residue was dissolved in EtOAc. The organic layer was washed with brine, dried and concentrated. The residue was chromatographed (dichloromethane and hexane 1:3) to give the PBOX-43 in 76% yield. IR (neat) 1730 cm−1; 1HNMR (CDCl3) δ 2.92 (s, 3 H), 3.12 (s, 3 H), 6.44 (m, 2 H), 7.12 (m, 1 H), 7.47-7.55 (m, 3 H), 7.73-7.87 (m, 5 H), 8.24(m, 2H).

reactant | potassium hydride | 1.84 mmol, 0.211 g | [H-].[K+]
reactant | (±)-6-(2-naphthyl)pyrrolo[1,2-d]pyrido[3,2-b][1,4]oxazepin-7(6H)-one | 1.84 mmol, 600 mg | C1=C(C=CC2=CC=CC=C12)C1C(C=2N(C3=C(O1)C=CC=N3)C=CC2)=O | C21H14N2O2
reactant | dimethylcarbamoyl chloride | 2.12 mmol, 0.228 g | CN(C(=O)Cl)C | C3H6ClNO
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 7-((Dimethylcarbamoyl)oxy)-6-(2-naphthyl)pyrrolo[1,2-d]pyrido-[3,2-b][1,4]oxazepine | 76% yield | CN(C(=O)OC=1C=2N(C3=C(OC1C1=CC4=CC=CC=C4C=C1)C=CC=N3)C=CC2)C | C24H19N3O3
